US07018988B2
(2S,4EZ)-N2-(1,3-benzodioxol-5-ylmethyl)-4-{[(4-methoxybenzyl)oxy]imino}-N1-pentyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 1,3-benzodioxol-5-ylmethylamine the title compound was obtained in 63% purity by LC/MS. MS(ESI+): m/z=511.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 1,3-benzodioxol-5-ylmethylamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
product | (2S,4EZ)-N2-(1,3-benzodioxol-5-ylmethyl)-4-{[(4-methoxybenzyl)oxy]imino}-N1-pentyl-1,2-pyrrolidinedicarboxamide | O1COC2=C1C=CC(=C2)CNC(=O)[C@H]2N(CC(C2)=NOCC2=CC=C(C=C2)OC)C(=O)NCCCCC | C27H34N4O6
